US07038077B2
Synthesis of (1S,2S,5R,6S)-2-Allyloxycarbonylamino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-allyl ester
(1S,2S,5R,6S)-2-Allyloxycarbonylamino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid (13.4 g, 49.81 mmol, 1.0 equiv) was suspended in methylene chloride (400 mL). N-Ethyl-N′-dimethylaminopropylcarbodiimide (9.55 g, 49.81 mmol, 1.0 equiv) and dimethylaminopyridine (0.608 g, 4.98 mmol, 0.1 equiv) were added at room temperature under nitrogen. After a solution formed, allyl alcohol (3.4 mL, 2.89 g, 49.81 mmol, 1.0 equiv) was added and the mixture was stirred overnight at room temperature. The reaction mixture was diluted with methylene chloride and washed twice with water. The organic phase was dried over magnesium sulfate, filtered and concentrated. The title compound was obtained as an oil (44% yield).

reactant | (1S,2S,5R,6S)-2-Allyloxycarbonylamino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 49.81 mmol, 13.4 g, 1.0 equiv | C(C=C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2CC1)C(=O)O)C(=O)O | C12H15NO6
reactant | N-Ethyl-N′-dimethylaminopropylcarbodiimide | 49.81 mmol, 9.55 g, 1.0 equiv | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | dimethylaminopyridine | 4.98 mmol, 0.608 g, 0.1 equiv | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | allyl alcohol | 49.81 mmol, 3.4 mL, 2.89 g, 1.0 equiv | C(C=C)O | C3H6O
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S,5R,6S)-2-Allyloxycarbonylamino-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 6-allyl ester | C(C=C)OC(=O)[C@H]1[C@@H]2CC[C@]([C@H]12)(C(=O)O)NC(=O)OCC=C | C15H19NO6
